US08703805B2
Preparation of 1-[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]ethanone O-[2-(dimethylamino)ethyl]oxime
A mixture of 1-[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]ethanone oxime (196 mg, 0.415 mmol), KOH (142 mg, 2.3 mmol), 2-(dimethylamino)ethyl chloride hydrochloride (185 mg, 1.3 mmol), and anhydrous DMSO (5 mL) was stirred at 60° C. in a sealed vial for 3 h. The reaction mixture was diluted with water, extracted with ether. The combined extracts were washed with brine, dried over Na2SO4, and evaporated in vacuo. The residue was purified by flash chromatography (0-30% MeOH/DCM) to give the title compound as a white solid (50 mg, 22%). 1HNMR (CDCl3): δ8.04 (d, 1H), 7.83-7.81 (m, 1H), 7.74-7.71 (m, 1H), 7.57-7.43 (m, 5H), 7.21 (d, 1H), 7.00 (s, 1H), 6.76 (d, 1H), 4.38 (t, 2H), 3.07 9s, 3H), 2.78 (m, 2H), 2.40 (brs, 6H), 2.31 (s, 3H).

reactant | 1-[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]ethanone oxime | 0.415 mmol, 196 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(C)=NO | C22H18ClN3O3S2
reactant | KOH | 2.3 mmol, 142 mg | [OH-].[K+]
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 1.3 mmol, 185 mg | Cl.CN(CCCl)C
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]ethanone O-[2-(dimethylamino)ethyl]oxime | 50 mg, 22% | CN(CCON=C(C)C1=NN(C(=C1)C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C1=C(C=CC=C1)Cl)C | C26H27ClN4O3S2
